US05409928
(2) Preparation of methyl 4-bromomethyl-3-chlorobenzoate
Methyl 4-methyl-3-chlorobenzoate (4.5 g, 0.024 mol) was dissolved in carbon tetrachloride (100 ml), and thereto were added N-bromosuccinimide (4.8 g, 0.026 mol) and a catalytic amount of perbenzoic anhydride. The mixture was heated and refluxed under nitrogen atmosphere for 2 hours, allowed to cool, and the precipitate was separated by filtration. The filtrate was concentrated, and separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:20) to give the title compound (4.7 g, 0.018 mol) (yield 75%).

reactant | Methyl 4-methyl-3-chlorobenzoate | 0.024 mol, 4.5 g | CC1=C(C=C(C(=O)OC)C=C1)Cl | C9H9ClO2
reactant | N-bromosuccinimide | 0.026 mol, 4.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | perbenzoic anhydride | C1=CC=CC=C1C(=O)OOOC(C1=CC=CC=C1)=O | C14H10O5
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-bromomethyl-3-chlorobenzoate | 0.018 mol, 4.7 g, yield 75% | BrCC1=C(C=C(C(=O)OC)C=C1)Cl | C9H8BrClO2
